US08039450B2
To a 20 mL scintillation vial containing 5-(4-aminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol (144 mg, 0.56 mmol, 1.1 eq.), 4-methyl-benzenesulfonyl chloride (118.4 mg, 0.62 mmol, 1.1 eq.) in DCM (10.0 mL) was added Et3N (160 μL, 1.12 mmol, 2.0 eq.) drop wise. The mixture was stirred at room temperature overnight. The mixture was carefully treated with aqu. NH4Cl (10 mL) and the layers were separated. The aqueous was extracted with DCM (2×5 mL), combined organic phase was washed with H2O (10 mL), brine (10 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with EtOAc/Heptanes (0:100 to 80:20) to give N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-4-methyl-benzenesulfonamide as a white solid. LCMS (m/z) 432 (M+23); 1H NMR (400 MHz, DMSO-d) δ ppm 1H NMR (DMSO-d6) δ: 9.11 (s, 1H), 8.08 (t, J=6.3 Hz, 1H), 7.65-7.74 (m, 3H), 7.38 (d, J=8.0 Hz, 2H), 7.23-7.31 (m, J=8.6 Hz, 2H), 6.95-7.00 (m, 2H), 6.89-6.95 (m, 2H), 4.92 (s, 2H), 3.95 (d, J=6.3 Hz, 2H), 2.38 (s, 3H).

reactant | 5-(4-aminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | 0.56 mmol, 144 mg, 1.1 eq. | NCC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C14H14BNO3
reactant | 4-methyl-benzenesulfonyl chloride | 0.62 mmol, 118.4 mg, 1.1 eq. | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | Et3N | 1.12 mmol, 160 μL, 2.0 eq. | CCN(CC)CC | C6H15N
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-4-methyl-benzenesulfonamide | OB1OCC2=C1C=CC(=C2)OC2=CC=C(CNS(=O)(=O)C1=CC=C(C=C1)C)C=C2 | C21H20BNO5S
